US06143908
Then, sodium bromide (43.01 g, 0.42 mol) and sodium benzoate (60.24 g, 0.42 mol) were added to a mixture of the above 4-chloromethyl-2,2-dimethyl-1,3-dioxolane (60.02 g, 0.39 mol) and N,N-dimethylformamide (600 ml) and the resulting mixture was stirred for 15 hours at 150° C. After cooling the salt was filtered off and N,N-dimethylformamide was removed in vacuo and water was added to the residue and extracted with toluene. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and condensed in vacuo to give crude 4-benzoyloxymethyl-2,2-dimethyl-1,3-dioxolane (yield 90%).

reactant | sodium bromide | 0.42 mol, 43.01 g | [Br-].[Na+]
reactant | sodium benzoate | 0.42 mol, 60.24 g | C(C1=CC=CC=C1)(=O)[O-].[Na+]
reactant | 4-chloromethyl-2,2-dimethyl-1,3-dioxolane | 0.39 mol, 60.02 g | ClCC1OC(OC1)(C)C | C6H11ClO2
solvent | N,N-dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 4-benzoyloxymethyl-2,2-dimethyl-1,3-dioxolane | yield 90% | C(C1=CC=CC=C1)(=O)OCC1OC(OC1)(C)C | C13H16O4
